US08629144B2
Step 1: tert-butyl 2-[6-(1-methyl-1H-pyrazol-4-yl)pyridazin-3-yl]hydrazinecarboxylate
tert-butyl carbazate, 8.98 g (67.3 mmol) and 3-chloro-6-(1-methyl-1H-pyrazol-4-yl)pyridazine (11.9 g, 61.1 mmol) were mixed in 1-butanol (245 mL). This mixture was heated till 90° C. and stirred at that temperature for 16 h. The reaction mixture was cooled and water (250 mL) and ethylacetate (250 mL) were added. The biphasic mixture was neutralised with sodium hydrogencarbonate till the pH is 7. Then the organic layer was separated and the water layer was extracted with ethylacetate (250 mL). The combined organic layers were washed once with water (250 mL) and evaporated. The residue was stirred in isopropylether, filtered off and dried under vacuum. Yield: 5.9 g (20.3 mmol; 33%) of the title compound.

reactant | tert-butyl carbazate | C(NN)(=O)OC(C)(C)C | C5H12N2O2
reactant | 3-chloro-6-(1-methyl-1H-pyrazol-4-yl)pyridazine | 61.1 mmol, 11.9 g | ClC=1N=NC(=CC1)C=1C=NN(C1)C | C8H7ClN4
reactant | water | 250 mL | O | H2O
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | 1-butanol | 245 mL | C(CCC)O | C4H10O
solvent | ethylacetate | 250 mL | C(C)OC(C)=O | C4H8O2
product | tert-butyl 2-[6-(1-methyl-1H-pyrazol-4-yl)pyridazin-3-yl]hydrazinecarboxylate | CN1N=CC(=C1)C1=CC=C(N=N1)NNC(=O)OC(C)(C)C | C13H18N6O2
